US05021577
1,4-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-1,2,3,4-tetrahydronaphthalene
A mixture of 80 mmol of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 300 mmol of 90% tert-butyl hydroperoxide, 5 mmol of molybdenum trioxide and 80 ml of 1,2,3,4-tetrahydronaphthalene (tetralin) is heated at 135° C. in a Fischer-Porter pressure bottle till the red color of the N-oxyl starting material is no longer visible. Purification of the crude reaction mixture by flash chromatography affords the title compound.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 80 mmol | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | tert-butyl hydroperoxide | 300 mmol | C(C)(C)(C)OO | C4H10O2
reactant | 1,2,3,4-tetrahydronaphthalene | 80 ml | C1CCCC2=CC=CC=C12 | C10H12
catalyst | molybdenum trioxide | 5 mmol | [Mo](=O)(=O)=O
product | 1,4-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC1CCC(C2=CC=CC=C12)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)(C)C | C42H54N2O6
